US03931270
In a 50 ml three-necked flask equipped with thermometer, 10 ml addition funnel and magnetic stirrer is placed 6 g of 2,5-dimethoxy-2,5-dimethyl-2,5-dihydrofuran, 24 ml H2O and 1 drop of glacial acetic acid. The mixture (which is crude cis-3-hexene-2,5-dione) is stirred for one hour until homogeneous. Then 5.25 g thiobenzoic acid is added over a five-minute period. The mixture is allowed to stand for eighteen more minutes and is then extracted with 35 ml of methylene chloride. After drying over anhydrous sodium sulfate and subsequent solvent removal, 7.55 g of crude 3-thiobenzoyl-2,5-hexanedione is recovered. The crude material is purified by column chromatography on 108 g silicic acid packed in ether:hexane (1:9) mixture. Elution with 630 ml ether:hexane (1:9) solvent mixture; followed by elution with 500 ml ether:hexane (1:4) solvent mixture; followed by elution with 850 ml ether:hexane (1:3) solvent mixture gives 6.2 g of 3-thiobenzoyl-2,5-hexanedione, having the following analyses:

reactant | 2,5-dimethoxy-2,5-dimethyl-2,5-dihydrofuran | 6 g | COC1(OC(C=C1)(C)OC)C | C8H14O3
reactant | cis-3-hexene-2,5-dione | CC(\C=C/C(C)=O)=O | C6H8O2
reactant | thiobenzoic acid | 5.25 g | C(C1=CC=CC=C1)(=S)O | C7H6OS
catalyst | acetic acid | 1 drop | C(C)(=O)O | C2H4O2
solvent | H2O | 24 ml | O | H2O
product | 3-thiobenzoyl-2,5-hexanedione | 6.2 g | C(C1=CC=CC=C1)(=S)C(C(C)=O)CC(C)=O | C13H14O2S
